US04983600
(a) 2-Naphthoylurea
The above compound was prepared, following the procedure of Example 14a from 2-napthoic acid (8.2 g, 47.7 mmol), thionyl chloride (40 ml) and urea (10 g, 167 mmol) to give the title compound (7.1 g), mp 207°-208° C.

reactant | 2-napthoic acid | 47.7 mmol, 8.2 g | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | urea | 167 mmol, 10 g | NC(=O)N | CH4N2O
solvent | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-Naphthoylurea | 7.1 g | C1=C(C=CC2=CC=CC=C12)C(=O)NC(=O)N | C12H10N2O2
